* File: nand4_dyn.pex.netlist.pex
* Created: Mon Feb 28 15:18:44 2022
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND4_DYN%CLK 3 5 8 9 15 19 21 36
c11 36 0 0.08496f
c12 31 0 0.0215f
c13 21 0 0.00344f
c14 19 0 0.0326783f
c15 15 0 0.0257983f
c16 11 0 0.0885766f
c17 9 0 0.00859656f
c18 8 0 0.0644966f
c19 6 0 0.00344f
c20 5 0 0.00515656f
c21 3 0 0.0257983f
r22 29 31 0.00154
r23 25 29 9.6
r24 25 36 4.29
r25 17 19 55.825
r26 13 15 28.875
r27 12 31 3.88059
r28 11 17 4.30221
r29 11 12 190.575
r30 10 21 3.26053
r31 9 13 4.30221
r32 9 10 11.55
r33 8 31 6.71385
r34 7 21 0.847354
r35 7 8 144.375
r36 5 21 3.26053
r37 5 6 11.55
r38 1 6 4.30221
r39 1 3 28.875
.ends

.subckt PM_NAND4_DYN%D 3 5 8 9 13 15 29
c10 29 0 0.09558f
c11 23 0 0.0215f
c12 15 0 0.00344f
c13 13 0 0.0257983f
c14 9 0 0.00859656f
c15 8 0 0.0120366f
c16 6 0 0.00344f
c17 5 0 0.00515656f
c18 3 0 0.0257983f
r19 19 23 9.6
r20 19 29 4.29
r21 11 13 28.875
r22 10 15 3.26053
r23 9 11 4.30221
r24 9 10 11.55
r25 8 23 6.71539
r26 7 15 0.847354
r27 7 8 26.95
r28 5 15 3.26053
r29 5 6 11.55
r30 1 6 4.30221
r31 1 3 28.875
.ends

.subckt PM_NAND4_DYN%C 3 5 8 9 13 15 29
c10 29 0 0.09558f
c11 23 0 0.0215f
c12 15 0 0.00344f
c13 13 0 0.0257983f
c14 9 0 0.00859656f
c15 8 0 0.0120366f
c16 6 0 0.00344f
c17 5 0 0.00515656f
c18 3 0 0.0257983f
r19 19 23 9.6
r20 19 29 4.29
r21 11 13 28.875
r22 10 15 3.26053
r23 9 11 4.30221
r24 9 10 11.55
r25 8 23 6.71539
r26 7 15 0.847354
r27 7 8 26.95
r28 5 15 3.26053
r29 5 6 11.55
r30 1 6 4.30221
r31 1 3 28.875
.ends

.subckt PM_NAND4_DYN%Y 3 19
c1 19 0 0.09558f
c2 12 0 0.0215f
c3 3 0 0.0300983f
r4 12 16 6.71231
r5 8 12 9.6
r6 8 19 4.29
r7 3 16 50.05
.ends

.subckt PM_NAND4_DYN%B 3 5 8 9 13 15 29
c10 29 0 0.09558f
c11 23 0 0.0215f
c12 15 0 0.00344f
c13 13 0 0.0257983f
c14 9 0 0.00859656f
c15 8 0 0.0120366f
c16 6 0 0.00344f
c17 5 0 0.00515656f
c18 3 0 0.0257983f
r19 19 23 9.6
r20 19 29 4.29
r21 11 13 28.875
r22 10 15 3.26053
r23 9 11 4.30221
r24 9 10 11.55
r25 8 23 6.71539
r26 7 15 0.847354
r27 7 8 26.95
r28 5 15 3.26053
r29 5 6 11.55
r30 1 6 4.30221
r31 1 3 28.875
.ends

.subckt PM_NAND4_DYN%A 3 7 11 29
c3 29 0 0.07965f
c4 25 0 0.0301f
c5 13 0 0.00344f
c6 11 0 0.0257983f
c7 7 0 0.0171966f
c8 6 0 0.0120366f
c9 3 0 0.0257983f
r10 21 25 5.39
r11 17 21 9.6
r12 17 29 4.29
r13 9 11 28.875
r14 8 13 0.847354
r15 7 9 4.30221
r16 7 8 30.8
r17 6 25 3.88059
r18 5 13 3.26053
r19 5 6 26.95
r20 1 13 3.26053
r21 1 3 28.875
.ends

.subckt PM_NAND4_DYN%X 8 12 20 21 23 24 28
c3 28 0 0.06372f
c4 18 0 0.00775f
c5 16 0 0.0136375f
c6 12 0 0.0458788f
c7 9 0 0.00496f
c8 8 0 0.0669575f
c9 5 0 0.00991876f
r10 18 28 4.29
r11 15 18 0.0434143
r12 15 16 0.22
r13 13 23 2.64
r14 13 24 2.64
r15 12 13 10.4
r16 10 18 0.0434463
r17 10 12 0.73998
r18 8 16 0.0446983
r19 8 9 1.08
r20 6 20 6.52463
r21 6 21 6.52463
r22 5 6 10.8
r23 3 9 0.0446983
r24 3 5 0.12002
.ends

.subckt PM_NAND4_DYN%GND 1 4 6 8 10 25 28 32
c4 46 0 0.00496f
c5 37 0 0.00991876f
c6 33 0 0.0215f
c7 32 0 0.0911388f
c8 30 0 0.00496f
c9 28 0 0.0198375f
c10 25 0 0.163675f
c11 23 0 0.02604f
c12 21 0 0.0533175f
c13 17 0 0.00495752f
c14 13 0 0.189718f
c15 6 0 0.0283766f
c16 2 0 0.0309566f
r17 37 38 10.4
r18 35 37 0.12002
r19 32 33 9.6
r20 30 32 1.56
r21 29 46 0.00880368
r22 28 35 0.0446983
r23 28 29 0.32
r24 23 44 0.01999
r25 23 25 0.66
r26 21 22 10.4
r27 19 30 0.0446983
r28 19 21 0.73998
r29 18 46 0.0338756
r30 18 21 0.12002
r31 17 46 0.0338756
r32 13 44 0.0325
r33 13 44 0.031483
r34 13 25 0.0525
r35 13 17 0.08
r36 11 38 1.98373
r37 10 38 1.76341
r38 10 11 3.74713
r39 9 22 1.98378
r40 8 22 1.76336
r41 8 9 3.74713
r42 5 33 6.71231
r43 5 6 63.525
r44 2 6 4.81186
r45 2 4 4.8125
r46 1 44 10.8
.ends

.subckt PM_NAND4_DYN%9 1 3 7 10 11 17 24 25
c10 21 0 0.00991876f
c11 18 0 0.00496f
c12 17 0 0.0198375f
c13 15 0 0.0148775f
c14 11 0 0.00186124f
c15 10 0 0.0223181f
c16 7 0 0.00868062f
r17 21 22 10.4
r18 19 21 0.12002
r19 17 19 0.0446983
r20 17 18 0.32
r21 15 16 10.4
r22 13 15 0.11998
r23 12 18 0.0446983
r24 12 15 0.12002
r25 10 13 0.0446983
r26 10 11 0.3
r27 8 24 2.63934
r28 8 25 2.64066
r29 7 8 10.4
r30 5 11 0.0446983
r31 5 7 0.11998
r32 4 22 1.98373
r33 3 22 1.76341
r34 3 4 3.74713
r35 2 16 1.98378
r36 1 16 1.76336
r37 1 2 3.74713
.ends

.subckt PM_NAND4_DYN%10 1 3 7 10 11 17 24 25
c10 21 0 0.00991876f
c11 18 0 0.00496f
c12 17 0 0.0198375f
c13 15 0 0.0148775f
c14 11 0 0.00186124f
c15 10 0 0.0223181f
c16 7 0 0.00868062f
r17 21 22 10.4
r18 19 21 0.12002
r19 17 19 0.0446983
r20 17 18 0.32
r21 15 16 10.4
r22 13 15 0.11998
r23 12 18 0.0446983
r24 12 15 0.12002
r25 10 13 0.0446983
r26 10 11 0.3
r27 8 24 2.63934
r28 8 25 2.64066
r29 7 8 10.4
r30 5 11 0.0446983
r31 5 7 0.11998
r32 4 22 1.98375
r33 3 22 1.76338
r34 3 4 3.74713
r35 2 16 1.98375
r36 1 16 1.76338
r37 1 2 3.74713
.ends

.subckt PM_NAND4_DYN%VDD 1 23 39 41
c0 27 0 0.00867876f
c1 20 0 0.059515f
c2 17 0 0.00867876f
c3 12 0 0.159958f
c4 5 0 0.159958f
r5 28 41 6.44144
r6 27 28 10.8
r7 21 23 0.08
r8 18 39 6.44144
r9 17 18 10.8
r10 5 20 0.0184246
r11 5 30 0.0184246
r12 5 12 0.0184246
r13 5 21 0.0184246
r14 5 30 0.2825
r15 5 27 0.09998
r16 5 20 0.12
r17 5 23 0.04
r18 5 17 0.09998
r19 5 12 0.3225
r20 1 5 10.4
r21 1 5 10.4
.ends

.subckt PM_NAND4_DYN%12 1 3 7 10 11 17 24 25
c10 21 0 0.00991876f
c11 18 0 0.00496f
c12 17 0 0.0198375f
c13 15 0 0.0148775f
c14 11 0 0.00186124f
c15 10 0 0.0223181f
c16 7 0 0.00868062f
r17 21 22 10.4
r18 19 21 0.12002
r19 17 19 0.0446983
r20 17 18 0.32
r21 15 16 10.4
r22 13 15 0.11998
r23 12 18 0.0446983
r24 12 15 0.12002
r25 10 13 0.0446983
r26 10 11 0.3
r27 8 24 2.64
r28 8 25 2.64
r29 7 8 10.4
r30 5 11 0.0446983
r31 5 7 0.11998
r32 4 22 1.98375
r33 3 22 1.76338
r34 3 4 3.74713
r35 2 16 1.98375
r36 1 16 1.76338
r37 1 2 3.74713
.ends

.subckt PM_NAND4_DYN%13 1 3 7 10 11 17 24 25
c10 21 0 0.00991876f
c11 18 0 0.00496f
c12 17 0 0.0198375f
c13 15 0 0.0148775f
c14 11 0 0.00186124f
c15 10 0 0.0223181f
c16 7 0 0.00868062f
r17 21 22 10.4
r18 19 21 0.12002
r19 17 19 0.0446983
r20 17 18 0.32
r21 15 16 10.4
r22 13 15 0.11998
r23 12 18 0.0446983
r24 12 15 0.12002
r25 10 13 0.0446983
r26 10 11 0.3
r27 8 24 2.64
r28 8 25 2.64
r29 7 8 10.4
r30 5 11 0.0446983
r31 5 7 0.11998
r32 4 22 1.98375
r33 3 22 1.76338
r34 3 4 3.74713
r35 2 16 1.98375
r36 1 16 1.76338
r37 1 2 3.74713
.ends

.subckt PM_NAND4_DYN%14 1 2
r0 1 2 7.5
.ends

