* nor4_dyn.netlist
* bd68@njit.edu 24Feb22

.option scale=90n
.param K_LEN=4

*subcircuit netlist
.subckt NOR4DYN clk a b c d y x vdd vss
*pullup network
M1 x  clk vdd  vdd CMOSP W=4 L=2
M2 d2 vss vdd  vdd CMOSP W=4 L='K_LEN-2'
M3 x  y  d2    vdd CMOSP W=4 L=2
*pulldown network
M4 x  a   d6  vss CMOSN W=8 L=2
M5 x  b   d6  vss CMOSN W=8 L=2
M6 x  c   d6  vss CMOSN W=8 L=2
M7 x  d   d6  vss CMOSN W=8 L=2
M8 d6 clk vss vss CMOSN W=8 L=2
.ends
